US09255096B1
3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-ethylphenyl)benzamide
In a manner similar to Example 3, 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid (0.20 mmol, 61 mg) and 3-ethylaniline (0.30 mmol, 0.037 mL) were reacted to give the title compound as an off-white solid (43 mg, 53%).

reactant | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid | 0.20 mmol, 61 mg | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)O)C=CC1)C=CC=C3 | C19H16N2O2
reactant | 3-ethylaniline | 0.30 mmol, 0.037 mL | C(C)C=1C=C(N)C=CC1 | C8H11N
product | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-ethylphenyl)benzamide | 43 mg, 53% | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)NC2=CC(=CC=C2)CC)C=CC1)C=CC=C3 | C27H25N3O
